US06548493B1
(7aS,11aR)-2-[4-methoxy-2-(trifluoromethyl)phenyl]-10-(3-methyl-2-butenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline
The title compound was prepared by the method of Example 382 as a yellow oil (25 mg, 71%) from (7aS,11aR)-2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline (30 mg, 0.077 mmol) and 4-bromo-2-methyl-2-butene (23 mg, 0.15 mmol). 1H NMR (CDCl3, 300 MHz) δ1.65 (s, 3H), 1.79 (s, 3H), 2.12-2.22 (m, 3H), 2.24-2.40 (m, 1H), 2.57 (se, J=7.7 Hz, 2H), 2.72 (t, J=6.6 Hz, 2H), 2.74-2.84 (br, 1H), 3.05-3.45 (m, 6H), 3.59-3.77 (m, 1H), 3.86 (s, 3H), 5.42-5.55 (br, 1H), 6.83 (s, 1H), 6.85 (s, 1H), 7.03 (d, J=8.8 Hz, 1H), 7.17-7.25 (m, 2H) ppm. MS (CI, NH3): 457.2 (base, M+H).

reactant | (7aS,11aR)-2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 0.077 mmol, 30 mg | COC1=CC(=C(C=C1)C=1C=C2CCCN3C2=C(C1)[C@H]1[C@@H]3CCNC1)C(F)(F)F | C22H23F3N2O
reactant | 4-bromo-2-methyl-2-butene | 0.15 mmol, 23 mg | BrCC=C(C)C | C5H9Br
reactant | NH3 | N | H3N
product | (7aS,11aR)-2-[4-methoxy-2-(trifluoromethyl)phenyl]-10-(3-methyl-2-butenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | COC1=CC(=C(C=C1)C=1C=C2CCCN3C2=C(C1)[C@H]1[C@@H]3CCN(C1)CC=C(C)C)C(F)(F)F | C27H31F3N2O
